US07915281B2
Under a nitrogen atmosphere, 4-fluoro-N-hydroxybenzenecarboximidoyl chloride (7.6 g, 44 mmol) was added to a heated solution (40° C.) of 3-nitro-N-prop-2-ynyl[1,5]naphthyridin-4-amine (5.0 g, 22 mmol) and anhydrous triethylamine (6.7 mL, 48 mmol) in anhydrous dichloromethane (150 mL). The reaction was heated at 40° C. for 1.7 hours and then concentrated under reduced pressure. The residue was triturated with water; the resulting solid was isolated by filtration, washed sequentially with toluene and a small amount of diethyl ether, and then dissolved in dichloromethane. The solution was concentrated under reduced pressure and dried under high vacuum to provide 6.00 g of N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-3-nitro[1,5]naphthyridin-4-amine as a brownish-yellow solid.

reactant | 4-fluoro-N-hydroxybenzenecarboximidoyl chloride | 44 mmol, 7.6 g | FC1=CC=C(C=C1)C(=NO)Cl | C7H5ClFNO
reactant | 3-nitro-N-prop-2-ynyl[1,5]naphthyridin-4-amine | 22 mmol, 5.0 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCC#C | C11H8N4O2
reactant | triethylamine | 48 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-3-nitro[1,5]naphthyridin-4-amine | 6.00 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C18H12FN5O3
